US08957070B2
2-(Hydroxymethyl)-N-methyl-N-[2-(1,3-thiazol-2-yl)-1H-indol-7-yl]thiophene-3-sulfonamide
To a suspension of lithium aluminum hydride (260 mg) in tetrahydrofuran (10 mL) was added dropwise a solution of methyl 3-({methyl[2-(1,3-thiazol-2-yl)-1H-indol-7-yl]amino}sulfonyl)thiophene-2-carboxylate (1.4 g) in tetrahydrofuran (5 mL) under ice-cooling, and the mixture was stirred at room temperature for 4 hr. To the reaction mixture were added water (260 μL), 15% aqueous sodium hydroxide solution (260 μL) and water (780 μL) in this order and the mixture was stirred at room temperature for 2 hr. The insoluble material was filtered off, and the filtrate was concentrated. The residue was subjected to silica gel column chromatography (ethyl acetate:hexane=1:1) to give the title compound (701 mg, yield 54%) as pale-yellow crystals. melting point 192° C.

reactant | lithium aluminum hydride | 260 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl 3-({methyl[2-(1,3-thiazol-2-yl)-1H-indol-7-yl]amino}sulfonyl)thiophene-2-carboxylate | 1.4 g | CN(S(=O)(=O)C1=C(SC=C1)C(=O)OC)C=1C=CC=C2C=C(NC12)C=1SC=CN1 | C18H15N3O4S3
reactant | water | 260 μL | O | H2O
reactant | sodium hydroxide | 260 μL | [OH-].[Na+]
reactant | water | 780 μL | O | H2O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 2-(Hydroxymethyl)-N-methyl-N-[2-(1,3-thiazol-2-yl)-1H-indol-7-yl]thiophene-3-sulfonamide | 701 mg, yield 54% | OCC=1SC=CC1S(=O)(=O)N(C=1C=CC=C2C=C(NC12)C=1SC=CN1)C | C17H15N3O3S3
